US04076818
2-(Hydroxymethyl)-10-methoxypyrazolo[1,5-c]quinazoline-5(6H)-one
To 4.2 g of 10-hydroxy-2-(hydroxymethyl)pyrazolo[1,5-c]-quinazoline-5(6H)-one in a solution of 0.58 g sodium dissolved in 100 ml dry methanol is added 2.9 g of methyl iodide. After stirring for 3 hours at 50°, the reaction is neutralized with one equivalent of 1N hydrochloric acid, evaporated and the residue recrystallized from absolute ethanol to give the title compound.

reactant | 10-hydroxy-2-(hydroxymethyl)pyrazolo[1,5-c]-quinazoline-5(6H)-one | 4.2 g | OC=1C=2C=3N(C(NC2C=CC1)=O)N=C(C3)CO | C11H9N3O3
reactant | methyl iodide | 2.9 g | CI | CH3I
reactant | hydrochloric acid | 1N, one equivalent | Cl | ClH
solvent | sodium | 0.58 g | [Na] | Na
solvent | methanol | 100 ml | CO | CH4O
product | 2-(Hydroxymethyl)-10-methoxypyrazolo[1,5-c]quinazoline-5(6H)-one | OCC1=NN2C(NC=3C=CC=C(C3C2=C1)OC)=O | C12H11N3O3
